US07829567B2
A mixture of isatin (2.21 g, 15 mmol), 3,4-dimethoxyphenylacetic acid (4.91 g, 25 mmol) and sodium acetate (0.3 g) was heated at 200° C. for 3 hrs (TLC monitoring). After cooling, the mixture was added with AcOH (100 mL), and the precipitate was collected, washed with H2O, and dried to give 2-hydroxy-3-[(3,4-dimethoxy)phenyl]quinoline-4-carboxylic acid as a crude intermediate, which was used in the next step without further purification.

reactant | isatin | 15 mmol, 2.21 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 3,4-dimethoxyphenylacetic acid | 25 mmol, 4.91 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | sodium acetate | 0.3 g | C(C)(=O)[O-].[Na+]
solvent | AcOH | 100 mL | CC(=O)O | C2H4O2
product | 2-hydroxy-3-[(3,4-dimethoxy)phenyl]quinoline-4-carboxylic acid | OC1=NC2=CC=CC=C2C(=C1C1=CC(=C(C=C1)OC)OC)C(=O)O | C18H15NO5
